US07560549B2
(2R)-2-[4-{[3,5-Bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl 4-methylbenzenesulfonate
To a solution of (2R)-2-[4-{[3,5-bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethanol obtained in Reference Example 1 (3.0 g, 5.7 mmol) in methylene chloride (30 ml) were added dimethylaminopyridine (0.07 g, 0.57 mmol) and triethylamine (1.2 ml, 8.5 mmol) under a nitrogen stream, the resulting mixture was cooled to 0-5° C., and then a solution of 4-methylbenzenesulfonyl chloride (1.3 g, 6.8 mmol) in methylene chloride (10 ml) was further added dropwise at below 10° C. with stirring. After the resulting mixture was stirred at room temperature for 8 hours, to the reaction mixture were added water (30 ml) and concentrated hydrochloric acid (1 ml), and the resulting mixture was partitioned. The separated organic layer was washed with water (30 ml) and evaporated to dryness. The residue obtained was purified by chromatography on a silica gel column and then crystallized from a mixed solvent of toluene (7 ml) and methylcyclohexane (35 ml) under ice-cooling to afford the title compound [2.3 g, yield: 60.3%] as a colorless crystalline solid.

reactant | (2R)-2-[4-{[3,5-bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethanol | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)N1C[C@](OCC1)(C1=CC(=C(C=C1)Cl)Cl)CCO)(F)F | C22H19Cl2F6NO3
reactant | dimethylaminopyridine | 0.57 mmol, 0.07 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 8.5 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzenesulfonyl chloride | 6.8 mmol, 1.3 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | (2R)-2-[4-{[3,5-Bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl 4-methylbenzenesulfonate | 2.3 g, yield: 60.3% | CC1=CC=C(C=C1)S(=O)(=O)OCC[C@]1(CN(CCO1)C(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC(=C(C=C1)Cl)Cl | C29H25Cl2F6NO5S
